US09302991B2
<Step-3>: 2-chloro-6-(hydroxymethyl)-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (single enantiomer)
To a stirred solution of (6-chloro-4-((1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)pyridin-2-yl)methyl acetate (95 mg, 0.21 mmol, Step-2, single enantiomer) in THF (5 mL) is added 2M aqueous sodium hydroxide solution (0.16 mL, 0.32 mmol) at room temperature, and the mixture is stirred at room temperature for 1 day. The reaction mixture is neutralized with 2M hydrochloric acid (0.16 mL, 0.32 mmol) and extracted with dichloromethane (50 mL×2). The organic layer is washed with brine, dried over sodium sulfate. The organic solvent is removed under reduced pressure to give 72 mg (84% yield) of the title compound as yellow oil.

reactant | (6-chloro-4-((1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)pyridin-2-yl)methyl acetate | 0.21 mmol, 95 mg | C(C)(=O)OCC1=NC(=CC(=C1)C(NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F)=O)Cl | C19H19ClF3N3O4
reactant | sodium hydroxide | 0.32 mmol, 2M, 0.16 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.32 mmol, 2M, 0.16 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-(hydroxymethyl)-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 72 mg, 84% yield | ClC=1C=C(C(=O)NC(C)C=2C=NC(=C(C2)C)OCC(F)(F)F)C=C(N1)CO | C17H17ClF3N3O3
